US04458076
4-(2-Fluorobenzoyl)-1-methylpiperidine hydrochloride
To a suspension of 7.6 g of magnesium turnings in 25 ml of tetrahydrofuran was added a few drops of ethyl bromide, with stirring under nitrogen. After the reaction began approximately 50.0 g of N-methyl-4-chloropiperidine in 125 ml of tetrahydrofuran was added dropwise at a rate such that moderate reflux was maintained. The reaction mixture was heated under reflux for an additional hour. A solution of 37.2 g of 2-fluorobenzonitrile in 30 ml of tetrahydrofuran was added dropwise. After completion of the addition, the reaction mixture was heated under reflux for two hrs and stirred overnight at room temperature. The reaction mixture was poured into a solution of 85 g of ammonium chloride in 1200 ml of ice waer and heated on a steam bath for 3 hrs. The mixture was cooled, extracted with benzene (3×250 ml) and dried over anhydrous sodium sulfate. Removal of the solvent under reduced pressure gave an oil. A 1.0 g-portion of the oil was dissolved in ether and a solution of ethereal hydrogen chloride was added. The precipitate was collected, dried and twice recrystallized from ethanol-ether to give 0.5 g (42%) of product as crystals, mp 167°-169°.

reactant | magnesium | 7.6 g | [Mg] | Mg
reactant | N-methyl-4-chloropiperidine | approximately 50.0 g | CN1CCC(CC1)Cl | C6H12ClN
reactant | 2-fluorobenzonitrile | 37.2 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | ammonium chloride | 85 g | [Cl-].[NH4+]
reactant | hydrogen chloride | Cl | ClH
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | ethyl bromide | a few drops | C(C)Br | C2H5Br
solvent | ether | CCOCC | C4H10O
product | 4-(2-Fluorobenzoyl)-1-methylpiperidine hydrochloride | 0.5 g, 42% | Cl.FC1=C(C(=O)C2CCN(CC2)C)C=CC=C1 | InChI=1S/C13H16FNO.ClH/c1-15-8-6-10(7-9-15)13(16)11-4-2-3-5-12(11)14;/h2-5,10H,6-9H2,1H3;1H
